US05578620
3-Phenoxy-2-hydroxypropylamine
A procedure similar to that described in Preparation 13 was repeated, except that 1.17 g of 3-phenoxy-2-hydroxypropylazide (prepared as described in Preparation 14), 0.46 g of lithium aluminum hydride and 20 ml of anhydrous tetrahydrofuran were used, to give 1.09 g of the title compound, melting at 82° C. to 84° C.

reactant | 3-phenoxy-2-hydroxypropylazide | 1.17 g | O(C1=CC=CC=C1)CC(CN=[N+]=[N-])O | C9H11N3O2
reactant | lithium aluminum hydride | 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Phenoxy-2-hydroxypropylamine | 1.09 g | O(C1=CC=CC=C1)CC(CN)O | C9H13NO2
